US07491722B2
5-Acetyl-2-ethyl-4-(1H-indol-5-ylamino)-6-phenylpyridazin-3(2H)-one
To a stirred solution of 80 mg (9.278 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in 4 ml of ethanol, 55 mg (0.417 mmol) of 5-aminoindole was added. The resulting mixture was stirred at room temperature for one hour and the final product was collected by filtration and washed with diethylether to yield the title compound (97 mg, 93.3% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 9.278 mmol, 80 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 5-aminoindole | 0.417 mmol, 55 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-(1H-indol-5-ylamino)-6-phenylpyridazin-3(2H)-one | 97 mg, 93.3% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC=1C=C2C=CNC2=CC1 | C22H20N4O2
